US07223791B2
To a solution (20 ml) of methyl benzimidate hydrochloride (2.00 g) in methanol was added methylhydrazine (0.540 g) at 0° C. This mixture was stirred at 0° C. for 1 hr., and at room temperature for 2 hrs., and concentrated. The residue was washed with ether to give colorless crystals. A mixture of these crystals, methyl 4-chloroformylbenzoate (2.32 g) and pyridine (30 ml) was heated under reflux for 1 hr. and poured into iced water. The crystals were collected by filtration and purified by silica gel column chromatography (hexane:ethyl acetate=2:1, volume ratio) to give methyl 4-(1-methyl-5-phenyl-1H-1,2,4-triazol-3-yl)benzoate (1.50 g, yield 44%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 167–168° C.

reactant | methyl benzimidate hydrochloride | 20 ml, 2.00 g | Cl.C(C1=CC=CC=C1)(OC)=N
reactant | methylhydrazine | 0.540 g | CNN | CH6N2
reactant | methyl 4-chloroformylbenzoate | 2.32 g | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | methyl 4-(1-methyl-5-phenyl-1H-1,2,4-triazol-3-yl)benzoate | 1.50 g, yield 44% | CN1N=C(N=C1C1=CC=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C17H15N3O2
